Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Vulvar hematoma
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ G2___ who presented as a transfer from 
___ for evaluation of left labial swelling and edema. 
Patient reported she went out drinking with her female cousin on 
the evening prior to presentation, and was unable to remember 
the events of that night. Female cousin accompanied the patient 
to the hospital and stated that she was not aware of the patient 
having any sexual contact or suffering a fall. Patient woke up 
on the morning of presentation with labial soreness and swelling 
that she discovered after voiding, which continued to worsen per 
patient and her cousin. 

At ___, she underwent CT scan that showed possible 
hemorrhage vs. early infection with no discreet abscess 
prompting transfer to ___ for gynecologic evaluation. 

On presentation to ___, she reported continued worsening of 
swelling and pain. She stated she was able to ambulate and void 
but with difficulty. She denied dizziness, lightheadedness, 
chest pain, shortness of breath, and vaginal bleeding.
 
Past Medical History:
OB Hx:
- G2P0
- TABx2 D&C x2

GYN Hx: 
- history of HPV warts, denies history of abnormal Pap. Unsure
date of last Pap. 
- menses regular, average flow
- on OCPs as of 1 week ago

PMH:  
- anxiety

PSH: 
- laparoscopic sleeve gastrectomy ___
- D&C x2 

 
Social History:
___
Family History:
No family history of breast, uterine or ovarian cancer. No 
personal or family history of bleeding or clotting disorders.
 
Physical Exam:
Vitals: stable and within normal limits
Gen: comfortable appearing, NAD
Resp: normal respiratory effort, speaking in full sentences
GU: significant bilateral labial edema, L>R though slightly 
decreased from prior, extensive ecchymosis extending over L 
labium majus and down to gluteal fold and crossing midline onto 
R side. 

 
Pertinent Results:
___ 03:05PM   WBC-11.7* RBC-4.55 HGB-13.2 HCT-39.0 MCV-86 
MCH-29.0 MCHC-33.8 RDW-13.2 RDWSD-41.6
___ 03:05PM   PLT COUNT-266
___ 11:25AM   ___ PTT-24.0* ___
___ 09:50AM URINE  UCG-NEGATIVE
___ 09:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG* PH-7.0 
LEUK-NEG
___ 09:50AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 09:35AM   GLUCOSE-86 UREA N-10 CREAT-0.7 SODIUM-146* 
POTASSIUM-4.3 CHLORIDE-108 TOTAL CO2-21* ANION GAP-17*
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology service on ___ 
for further evaluation of her vulvar hematoma. A second read of 
CT scan from ___ showed massively edematous and inflamed 
labia and a 3x2 cm right labial hyperdensity likely consistent 
with hematoma with no evidence of contrast extravasation. ___ was 
consulted and recommended no role for ___ intervention given the 
patient's hemodynamic stability and lack of active 
extravasation. On ___, the patient experienced worsening labial 
pain so a CTA was performed, which revealed increased bilateral 
labial edema with 5.9 cm hematoma, likely of venous origin with 
no active extravasation. 

The patient's pain was initially managed with Tylenol, ice 
packs, and prn oral dilaudid with IV for breakthrough pain. She 
was hemodynamically stable throughout her stay. Given the 
unclear circumstances surrounding her vulvar hematoma and 
concern for possible sexual assault vs. other traumatic injury, 
the patient was given Plan B for emergency contraception on 
___. She was also seen by the social work team for continued 
support. HIV, urine G/C, RPR were negative. 

The patient was gradually transitioned to an oral pain regimen 
at the time of discharge. She was discharged in stable condition 
with plan for close outpatient follow up. 

  

 
Medications on Admission:
Ativan prn anxiety
OCP x 1 week 
 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H 
do not take more than 4000mg in 24 hours.  
RX *acetaminophen 500 mg ___ by mouth every 6 hours Disp #*50 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Severe 
Do not drink or drive while taking narcotics. ___ make you 
drowsy. 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 3 
hours Disp #*50 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vulvar hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after you presented 
to the ED with vulvar/vaginal pain and were found to have a 
vulvar hematoma. You have recovered well and the team believes 
you are ready to be discharged home. Please continue to take 
pain medications as needed and use ice packs for pain relief. It 
will take several weeks for the bruising and swelling to resolve 
completely. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.

For any issues, please call the ___ clinic at ___

 
Followup Instructions:
___